US04942221
Preparation of 2-amino-3-(5-methoxy-3-indolyl)-propionitrile
Using the same method starting from 5.4 millimoles (1 g) of (5-methoxy-3-indolyl)-acetonitrile and replacing of cyanising agent by 20 ml of a normal solution of sodium cyanide in dimethylformamide, there are obtained, after purification by an acid-base extraction, 0.50 g of 2-amino-3-(5-methoxy-3-indolyl)-propionitrile with a yield of 43%.

reactant | (5-methoxy-3-indolyl)-acetonitrile | 5.4 millimoles, 1 g | COC=1C=C2C(=CNC2=CC1)CC#N | C11H10N2O
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-amino-3-(5-methoxy-3-indolyl)-propionitrile | yield of 43% | NC(C#N)CC1=CNC2=CC=C(C=C12)OC | C12H13N3O
